.INCLUDE model28nm.spi
.INCLUDE 8T_cell.spi

X1    WWL RWL RBL_bad WBL_bad nWBL_bad 1 0 8T_cell M = 31
X2    0 0 RBL WBL nWBL 1 0 8T_cell M = 255
Xcell WWL RWL RBL WBL nWBL 1 0 8T_cell

*
* 1v between VDD (1) and GND (0)
*
VCC 1 0 DC 1.0V

.IC V(RBL_bad) = 1.0V
.IC V(WBL_bad) = 0.0V
.IC V(nWBL_bad) = 0.0V
.IC V(RBL) = 1.0V
.IC V(WWL) = 0.0V
.IC V(WBL) = 0.0V
.IC V(nWBL) = 0.0V


.IC V(Xcell.Q) = 1.0V
.IC V(Xcell.nQ) = 0.0V

*
* Input wave
*
Vin0 RWL 0 pwl(1ns 0 2ns 1 9ns 1 9.5ns 0)

.TRAN 1ns 125ns
.MEASURE TRAN TimeAt500mV WHEN V(RBL) = 0.5V
*.plot in0 in1 in2 out0

.END